*PPTC lib
*Switch model 
.model S_model SW(RON=1m ROFF=1G Vt=0.5 Vh=-0.5 level=1)
* Current Judgement
 .subckt JCur Vcur out PARAMs: ithb=1 ithk=0  
Ejudge in 0 VALUE {IF((V(Vcur,0) >= ithk*temp+ithb),1.581977, 0)}
 Rd in out 1
 Cd out 0 10n
 .ends
* Time to trip Judgement
 .subckt JTtT set vTtT out
 * Time Counting
 Vin in 0 1.581977
 Sset tmp in set 0 S_model
 G1 tmp JPoint VALUE {1u*V(tmp, JPoint)/V(vTtT,0)}
 C1 0 JPoint 1u
* Time reset (discharge C1)
 Sreset JPoint 0 reset 0 S_model
 * inverter
 Einv reset 0 VALUE {IF((V(set) >= 0.5),0, 1)}
* judgement
Ejudge out 0 VALUE {IF((V(JPoint,0) >=1),1, 0)}
 .ends

* TtT Generation
.subckt TG Isen TtT PARAMs: p00=0 p10=0 p01=0 p20=0 p11=0 p02=0 p30=0 p21=0 p12=0 p03=0 p40=0 p31=0 p22=0 p13=0 p04=0
bGtg 0 TtT i= 
+ pwr(10,min(max(p00+(p10+(p20+(p30+p40*temp)*temp)*temp)*temp+(p01+(p11+(p21+p31*temp)*temp)*temp)*V(Isen)+(p02+(p12+p22*temp)*temp)*V(Isen)*V(Isen)+(p03+p13*temp)*V(Isen)*V(Isen)*V(Isen)+p04*V(Isen)*V(Isen)*V(Isen)*V(Isen),-8),3))
Rtg TtT 0 1
.ends
* Switch State Control
.subckt SSC resC resT Q_
* Reset Signal
VR R 0 PWL 0 1 0.9n 1 1n 0
* SR Latch
Bsr1 0 Q i= IF(((V(R) < 0.5) & (V(Q_) < 0.5)), 0.03163954, 0) Rpar=50 Cpar=10p
 Bsr2 0 Q_ i= IF(((V(S) < 0.5) & (V(Q) < 0.5)), 0.03163954, 0) Rpar=50 Cpar=10p
* And Gate
Band S 0 V= IF(((V(resC) >= 0.5) & (V(resT) >= 0.5) & (temp <= 126)),1, 0)
 .ends

* Main Part
.subckt MP I O LC Isen PARAMs: brl=0 krl=0 crl=0 arl=0 tmid=0 pdk=0 pdb=1
 Vsen I 1 0
 SL 1 2 LC 0 S_model
 GH 1 2 VALUE {V(1,2)/(V(I,O)*V(I,O)/max((pdk*temp+pdb),1e-9))}
 GL 2 O VALUE {V(2,O)/pwr(10,(krl*temp+brl+crl*atan(arl*(temp-tmid))))}
 * Current Sensing
 Rsen Isen 0 1
 Csen Isen 0 10n
 Gsen 0 Isen Value {abs(I(Vsen))}
 .ends

*miniSMDC014F PPTC library
.subckt miniSMDC014F I O
* Main Framework
 Xmp I O LC Isen MP PARAMs: brl=3.1407 krl=7.0713e-3 crl=1.8143 arl=0.532 tmid=120.186 pdk=-0.008497 pdb=1.105
 XTG Isen TtT TG PARAMs: p00=3.041 p10=-0.02291 p01=-4.108 p20=-0.0001655 p11=0.006464 p02=0.8491 p30=4.918e-06 p21=0.0001054 p12=-0.000808 p03=-0.04981 p40=-3.623e-08 p31=-8.776e-07 p22=-7.133e-06 p13=4.238e-05 p04=0
 XJC Isen resC JCur PARAMs: ithb=0.1679 ithk=-0.00129
 XJT resC TtT resT JTtT
 XSSC resC resT LC SSC
.ends

.subckt miniSMDC050F I O
* Main Framework
 Xmp I O LC Isen MP PARAMs: brl=2.8898 krl=4.7e-3 crl=2.04114 arl=0.597 tmid=122.889 pdk=-0.00795 pdb=1.063
 XTG Isen TtT TG PARAMs: p00=3.041 p10=-0.02291 p01=-1.538 p20=9.813e-5 p11=0.002681 p02=0.1375 p30=2.057e-05 p21=2.532e-5 p12=-0.000128 p03=-0.003784 p40=-2.101e-07 p31=-1.442e-07 p22=-1.08e-06 p13=2.18e-06 p04=0
 XJC Isen resC JCur PARAMs: ithb=0.557 ithk=-0.00339
 XJT resC TtT resT JTtT
 XSSC resC resT LC SSC
.ends

.subckt miniSMDC150F I O
* Main Framework
 Xmp I O LC Isen MP PARAMs: brl=0.82754 krl=3.842e-3 crl=1.3223 arl=0.524 tmid=126.081 pdk=-0.01177 pdb=1.461
 XTG Isen TtT TG PARAMs: p00=2.688 p10=0.01381 p01=-0.5366 p20=-0.0002564 p11=-0.004829 p02=0.02766 p30=-3.709e-06 p21=2.138e-5 p12=-0.0004454 p03=-0.0005195 p40=4.594e-08 p31=1.157e-08 p22=-9.133e-07 p13=-1.168e-05 p04=0
 XJC Isen resC JCur PARAMs: ithb=1.721 ithk=-0.01197
 XJT resC TtT resT JTtT
 XSSC resC resT LC SSC
.ends