*
* vcswitch
* Split from Control Components Library
*
.subckt vcswitch ctrl t1 t2
S1 t2 t1 ctrl 0 SW1
Rdum ctrl 0 10Meg
.model SW1 SW (Ron={Ron} Roff={Roff} Vt={Vt} Vh={Vh})
.ends vcswitch
