.subckt TNY267 BP EN D S
A2 N016 S S S N024 S N021 S AND Vhigh=5.8 Trise=75n
A3 N025 N020 S S S N024 S S SRFLOP Vhigh=5.8 Trise=100n
A4 N015 S S S N017 N025 S S AND Vhigh=5.8 Trise=50n
A6 N002 S S N007 N023 S N020 S AND Vhigh=5.8 Trise=50n
A7 N002 S S S N002 S N023 S OR Vhigh=5.8 Trise=50n
I1 S N011 PULSE(379u 403u 0 0.5m 0.5m 0 1m)
C1 N011 S 1n
R4 N011 N012 10
C2 N012 S 10p
A9 N012 S S S S N014 N007 S SCHMITT Vhigh=5.8 Trise=50n Vt=1.6 Vh=1.4
D1 N013 N014 Ideal
R2 N011 N013 100
A10 N012 S S S S N015 S S SCHMITT Vhigh=5.8 Trise=50n Vt=1.745 Vh=0.245
I2 D N001 350u load
D2 S N001 5_85V
D3 N001 BP Ideal
D4 S BP 6_3V
A11 BP S S S S S N016 S SCHMITT Vhigh=5.8 Trise=50n Vt=5.3 Vh=0.5
G1 N019 S N021 S table=(0.5 0,5.3 720m)
C3 D S 3.5p
D5 S N019 700V
R3 D N019 9
A1 D N005 S S S N017 S S SCHMITT Vhigh=5.8 Trise=50n Vt=0 Vh=1m
H3 N002 S value={if(I(R1)<-230u,0,5.8)}
H2 N026 S value={if(I(R1)>50u,0,5.8)}
A5 N002 S S S S N008 S S BUF Vhigh=5.8 Trise=50n
A8 N002 S S S N007 S N003 S AND Vhigh=4.05 Trise=50n
A12 N008 S S S N007 N009 S S AND Vhigh=5.8 Trise=50n
D7 N003 N004 Ideal
D8 N010 N009 Ideal
R5 N004 N005 1k
R6 N010 N005 7k
V3 N006 0 2.63
D9 N006 N005 Ideal
C5 N005 0 645p
A13 N022 EN S S S S N022 S SCHMITT Vhigh=2.3 Vlow=1 Trise=50n Vt=0 Vh=1m
I3 N018 EN 240u
D6 EN N018 Ideal
R1 N018 N022 100
.model Ideal D(Ron=0 Roff=1g Vfwd=0)
.model 5_85V D(Ron=10 Roff=1g Vfwd=0 Vrev=5.85)
.model 6_3V D(Ron=10 Roff=1g Vfwd=0 Vrev=6.3)
.model 700V D(Ron=0 Roff=1g Vfwd=0 Vrev=700)
.ends TNY267
