* 01.01.2021
* UC3846
* Current Mode PWM Controller
.subckt UC3846 Clad Vref CS- CS+ NI INV Comp Ct Rt Sync Aout GRD Vc Bout Vin Shdn
F1 iref Ct Vdt 1
Vdt iref N003 0
D1 N003 Rt drt
R1 Vin N012 3.2k
D2 GRD N012 dref
E1 iref GRD N012 GRD 1
I1 GRD Vref 45m
D3 Vref iref drout
D4 GRD Vref drout
A2 N004 GRD N005 GRD GRD N004 N007 GRD DFLOP Trise=20n Vhigh=5
A3 N005 GRD N001 GRD N007 N006 N002 GRD OR Trise=20n Vhigh=5
A4 N004 N001 GRD GRD N005 N010 N009 GRD OR Trise=20n Vhigh=5
S1 Aout Vc N002 GRD HOUT
S2 GRD Aout N006 GRD LOUT
S3 Bout Vc N009 GRD HOUT
S4 GRD Bout N010 GRD LOUT
A5 N008 GRD GRD GRD N016 GRD N005 GRD OR Trise=20n Vhigh=5
A6 N008 N015 GRD GRD GRD N016 GRD GRD SRFLOP Trise=20n Vhigh=5
E2 N018 GRD CS+ CS- table=(0 0,1.3 3.6)
A8 N018 N019 GRD GRD GRD GRD N013 GRD SCHMITT Trise=20n Vhigh=5 Vt=0 Vh=0
A9 N013 GRD GRD GRD N021 GRD N015 GRD OR Trise=20n Vhigh=5
G1 N022 GRD INV NI table=(0 0,3m 9m)
C1 Comp GRD 0.47u Rpar=100k
D5 GRD N022 deaz
I2 GRD Comp 0.5m
V4 Comp N019 1.2
D6 Comp N023 dcla
E3 N023 GRD N020 GRD 1
S5 GRD N020 N001 GRD scla
S6 GRD N020 N024 GRD scla
A7 Vin GRD GRD GRD GRD N001 GRD GRD SCHMITT Trise=20n Vhigh=5 Vt=7.325 Vh=0.375
Vdt2 Clad N020 0
A10 Shdn GRD GRD GRD GRD GRD N021 GRD BUF Trise=20n Vhigh=5 Ref=0.35
R3 Shdn GRD 6k
A11 N021 GRD GRD GRD N025 GRD N024 GRD OR Trise=20n Vhigh=5
H1 N026 GRD Vdt2 1666
R4 N025 N026 1k
D7 Comp N022 dead
I3 0 N020 30u
G3 Ct GRD N008 GRD 2.4m
S7 sync iref N008 GRD sosc
R2 sync GRD 2240
A13 N014 N017 GRD GRD GRD GRD N008 GRD SRFLOP Trise=20n Vhigh=5 Ref=3.3
A14 Ct GRD GRD GRD GRD GRD N011 GRD BUF Trise=20n Vhigh=5 Ref=2.8
A15 N011 GRD sync GRD GRD GRD N014 GRD OR Trise=20n Vhigh=5 Ref=3.3
A16 Ct GRD GRD GRD GRD N017 GRD GRD SCHMITT Trise=20n Vhigh=5 Vt=1.3 Vh=0.1
.model drt D(Ron=10 Roff=100Meg Vfwd=1.5)
.model dref D(Ron=0.5 Roff=100Meg Vfwd=0.7 Vrev=5.085)
.model drout D(Ron=0.33 Roff=100Meg Vfwd=0)
.model HOUT SW(Ron=200k Roff=3.75 Vser=1.5 Vt=2.5 Vh=-0.5)
.model LOUT SW(Ron=200k Roff=3.75 Vser=0.025 Vt=2.5 Vh=-0.5)
.model deaz D(Ron=0 Roff=200meg Vfwd=0 Vrev=3.9)
.model dcla D(Ron=82 Roff=200meg Vfwd=0.7)
.model scla SW(Ron=10 Roff=340k Vt=2.5 Vh=-0.5)
.model dead D(Ron=82 Roff=200meg Vfwd=0.7)
.model sosc SW(Ron=386 Roff=2727 Vt=2.5 Vh=0)
.ends
